US07371769B2
b) Preparation of 2-methoxy-5-(2-hydroxyethyl)-3,6-dimethyl-3H-pyrimidin-4-one.
To a suspension of 2-methoxy-5-(2-hydroxyethyl)-6-methyl-3H-pyrimidin-4-one (2.6 g, 0.014 mol) in DMF (25 ml) was added one equivalent of sodium hydride (55%, 0.6 g). After stirring for 0.5 hr. methyl iodide (0.81 ml, 0.014 mol) was added and the mixture was heated at 50° C. for five hours. After cooling, most of the DMF was removed in vaccuum. Water was added and the mixture was extracted with ethyl acetate. The combined organic layer was dried over sodium sulfate and then concentrated. Yield 2.0 g (71%) of a yellow oil.

reactant | 2-methoxy-5-(2-hydroxyethyl)-6-methyl-3H-pyrimidin-4-one | 0.014 mol, 2.6 g | COC1=NC(=C(C(N1)=O)CCO)C | C8H12N2O3
reactant | sodium hydride | 0.6 g, one equivalent | [H-].[Na+]
reactant | methyl iodide | 0.014 mol, 0.81 ml | CI | CH3I
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2-methoxy-5-(2-hydroxyethyl)-3,6-dimethyl-3H-pyrimidin-4-one | COC1=NC(=C(C(N1C)=O)CCO)C | C9H14N2O3
